US06245796B1
Hydrazine monohydrate was added to an ethanol (50 ml) solution of 3.00 g 5-ethoxycarbonyl-4-oxo-4,5,6,7-tetrahydrobenzo[b]furan, and the mixture was stirred at room temperature for 14 hours. The solvent was evaporated under a reduced pressure, and the residue was washed with hexane/ethyl acetate and dried under a reduced pressure to give 4,5-dihydro-3-hydroxy-1H-furo[2,3-g]indazole. Diazomethane (2 eq.) was added to a mixed solution of 1,4-dioxane (10 ml) and methanol (20 ml) containing 1.50 g of the thus obtained compound, and the mixture was stirred at room temperature for 1 hour. Acetic acid was added to the reaction mixture until gas evolution stopped, and then the solvent was evaporated under a reduced pressure. The residue was extracted with chloroform and washed with saturated sodium bicarbonate aqueous solution, and the thus obtained organic layer was dried over anhydrous sodium sulfate. After removal of the drying agent, the solvent was evaporated and the residue was purified by a silica gel column chromatography to give 0.80 g of 4,5-dihydro-3-methoxy-1H-furo[2,3-g]indazole. From this compound, 3-methoxy-1H-furo[2,3-g]indazole was obtained in the similar manner as described in Reference Example 60.

reactant | Hydrazine monohydrate | O.NN
reactant | 5-ethoxycarbonyl-4-oxo-4,5,6,7-tetrahydrobenzo[b]furan | 3.00 g | C(C)OC(=O)C1C(C2=C(OC=C2)CC1)=O | C11H12O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4,5-dihydro-3-hydroxy-1H-furo[2,3-g]indazole | OC1=NNC=2C3=C(CCC12)OC=C3 | C9H8N2O2
